US05659084
Preparation of 1-bromo-7-phenylheptane
To a stirred solution of 1500 mL (0.15 mol) of 0.1M Li2CuCl4 and 1,6-dibromohexane (456.8 g, 1.87 mol, 1.25 eq) in tetrahydrofuran, at -5 to 0° C., was added a solution of benzyl magnesium chloride (750 mL, 2M in tetrahydrofuran, 1.5 mol) over a 90 min period. The reaction mixture was stirred at 0° C. for 90 min, then quenched carefully with 2.0 L of saturated aqueous ammonium chloride. The internal reaction temperature was kept below 20° C. during the quench. The mixture was stirred for 1 h at room temperature and the layers separated. The organic layer was washed with 20% aqueous sodium chloride (4×500 mL). The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo at 45°-50° C. to an amber oil. Purification by fractional vacuum distillation through a 12-inch vacuum-jacketed Vigreux column gave the desired product as a colorless oil (198.2 g, 52%). An analytical sample was prepared by redistillation: bp 123°-124° C. (1.5 mm Hg); FT-IR (neat film) 3100-3000, 3000-2800, 2000-1700, 1604, 1496, 748, 699, 644 cm-1 ; 1H NMR (CDCl3, 400 MHz) δ 7.29-7.16 (m, 5 H), 3.40 (t, 2 H), 2.60 (t, 2 H), 1.88-1.81 (m, 2 H), 1.63-1.60 (m, 2 1.32 (m, 6 H); 13C NMR (CDCl3, 100 MHz) δ 142.7, 128.4, 128.2, 125.6, 35.9, 34.0, 32.8, 31.4, 29.1, 28.6, 28.1. Anal. Calcd for C13H19Br: C, 61.19; H, 7.50; Br, 31.31. Found: C, 61.25; H, 7.59; Br, 31.47.

reactant | 1,6-dibromohexane | 1.87 mol, 456.8 g, 1.25 eq | BrCCCCCCBr | C6H12Br2
reactant | benzyl magnesium chloride | 1.5 mol, 2M, 750 mL | C(C1=CC=CC=C1)[Mg]Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-bromo-7-phenylheptane | 198.2 g, 52% | BrCCCCCCCC1=CC=CC=C1 | C13H19Br
